US04564479
The procedure described in Example 26 is repeated, but using 5.05 g (25 mmols) of 4-bromonitrobenzene and 3.43 ml (27.5 mmols) of ethyl methacrylate. After a reaction time of 8 hours at 130° C. and working up as described in Example 1, recrystallising the crude product from methanol gives 2.70 g (11.5 mmols) of ethyl α-methyl-4-nitrocinnamate in the form of yellow crystals of melting point 75° C.; yield 46% of theory (conversion figure 4600; Pd content 0.01 mol %). Analysis for C12H13NO4 (molecular weight 235.24): calculated C 61.27; H 5.57; N 5.96, found C 61.18; H 5.57; N 6.24.

reactant | 4-bromonitrobenzene | 25 mmols, 5.05 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | ethyl methacrylate | 27.5 mmols, 3.43 ml | C(C(=C)C)(=O)OCC | C6H10O2
product | ethyl α-methyl-4-nitrocinnamate | 11.5 mmols, 2.70 g, yield 46% | CC(C(=O)OCC)=CC1=CC=C(C=C1)[N+](=O)[O-] | C12H13NO4
